Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([O:4][N:7]=[C:5]=[O:6])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[H:15][H:16],101.8683009903
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[N:6])[H:11])[H:7]>>[O:1]=[C:2]([C:3]([C@:4]1([H:11])[C:5]([H:7])=[N:6]1)([H:9])[H:10])[H:8],56.7677537581346
[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[H:10])([C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])[H:9],73.934939804344
[C:1]([O:2][C:3]([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:15].[O:2]([C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])[H:16],72.47393793205741
[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([O-:4])=[C+:5][H:11])([H:8])([H:9])[H:10].[C:6]([O:7][H:15])([H:12])([H:13])[H:14],93.8544618582204
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[C:5])[C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10],51.028453256278404
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[O:6][C:4](=[C:5]([H:14])[H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],89.1010414140545
[C:1]([C:2]1=[C:3]([H:11])/[C:4](=[N:5]/[H:12])[O:6][C:7]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:3]([H:11])[N:5]=[C:4]([H:12])[O:6][C:7]1([H:13])[H:14])([H:8])([H:9])[H:10],135.63959188810801
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8]>>[O:1]([C@@:2]1([H:9])[C@@:4]2([C:3]([O:5][H:12])([H:10])[H:11])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8],83.1288800548728
[C:1]([C:6](/[C:4]([O+:3]=[C:2]([H:11])[H:12])=[N:5]\[H:13])=[N-:7])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10],11.922231870590508
[O:1]=[C:2]=[C:6]=[N:7][C:3]([C:4]#[C:5][H:10])([H:8])[H:9]>>[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7],32.33207380798811
[N:4]#[N:5].[O:1]=[C:2]=[C:3]([H:6])[H:7]>>[O-:1][C:2](=[C:3]([N+:4]#[N:5])[H:7])[H:6],65.2150783060205
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[H:13])([H:8])([H:9])[H:10].[C:3]([O:4][H:14])[C:5]([C:6](=[O:7])[H:17])([H:15])[H:16],74.62796330858141
[C:1]([O:2][C:5](=[O:6])[H:14])([H:7])([H:8])[H:9].[C:3](=[C:4]([H:12])[H:13])([H:10])[H:11]>>[C:1]([O:2][C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],51.82891049454827
[C:1]([H:7])([H:8])([H:9])[H:14].[C:2]1([H:10])=[C:6]([H:13])[C:4](=[O:5])[C:3]1([H:11])[H:12]>>[C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])[C:4](=[O:5])[C:6]1([H:13])[H:14])([H:7])([H:8])[H:9],73.65861247350838
[C-:5]#[O+:6].[C:1](/[C:2](=[N:4]\[H:14])[H:10])([H:7])([H:8])[H:9].[C:3]([H:11])([H:12])([H:13])[H:15]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([N:4]([C:5](=[O:6])[H:15])[H:14])[H:10])([H:7])([H:8])[H:9],51.860228050512404
[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:2](=[N+:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])[H:11].[C:1]([H:8])([H:9])([H:10])[H:12],71.6804419538435
[O:1]([C:2]([C:3]([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[H:14][H:16].[O:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],76.9650069048483
[C:1]([C:2]1=[C:3]([H:13])[O:4][C@:5]([C:6]([H:15])([H:16])[H:17])([H:14])[O:7]1)([H:8])([H:9])[H:10].[H:11][H:12]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[O:4][C@:5]([C:6]([H:15])([H:16])[H:17])([H:14])[O:7]1)([H:8])([H:9])[H:10],67.3861384517456
[C:1]([C:2]1=[C:7]=[C:6]([H:12])[C:4](=[O:5])[O:3]1)([H:8])([H:9])[H:10].[H:11][H:13]>>[C:1]([C@@:2]1([H:11])[O:3][C:4](=[O:5])[C:6]([H:12])=[C:7]1[H:13])([H:8])([H:9])[H:10],5.235217299537908
[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([H:11])[H:12])([H:8])[H:10].[N:3](=[C:4]=[O:5])[H:13].[O:6]([C:7]([H:14])([H:15])[H:16])[H:9],69.36553197188829
[N:1](=[C:2]=[C:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7]>>[N:1]#[C:2][C:3]([C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8],60.18504999183139
[N:1]([C:2](=[O:3])[C:4]#[C:5][C:6]#[N:7])([H:8])[H:9]>>[N:1]([C:2](=[O+:3][C:6]#[N:7])[C:4]#[C-:5])([H:8])[H:9],104.17085327357
[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C@:3]1([C:7]([H:15])([H:16])[H:17])[O:4][N:5]1[C:6]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],100.412802774881
